US06521643B1
To a suspension of sodium hydride (60% dispersion in mineral oil, 240 mg) in tetrahydrofuran (10 ml) was added a solution of diethyl cyanomethylphosphonate (0.971 ml) dropwise at 0° C., and the mixture was stirred at ambient temperature for 30 minutes. Then to the resultant mixture was added a solution of 4-(4-methylpyridin-2-yl)-2-nitrobenzaldehyde (1.21 g) in tetrahydrofuran (15 ml) dropwise at 0° C., and the mixture was stirred at ambient temperature for 1 hour. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was triturated with diisopropyl ether, filtered and dried to give 4-(4-methylpyridin-2-yl)-2-nitrocinnamonitrile (1.22 g) as a mixture of regioisomers.

reactant | sodium hydride | 240 mg | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 0.971 ml | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 4-(4-methylpyridin-2-yl)-2-nitrobenzaldehyde | 1.21 g | CC1=CC(=NC=C1)C1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C13H10N2O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-(4-methylpyridin-2-yl)-2-nitrocinnamonitrile | 1.22 g | CC1=CC(=NC=C1)C1=CC(=C(C=CC#N)C=C1)[N+](=O)[O-] | C15H11N3O2
